US08557983B2
2-(trans-4-(aminomethyl)cyclohexyl)acetonitrile
To a solution of tert-butyl(trans-4-(cyanomethyl)cyclohexyl)methylcarbamate (500 mg) in dichloromethane (5 mL) was slowly added trifluoroacetic acid (3 mL) at 0° C. The mixture was warmed to room temperature, stirred for 1 hour and concentrated. The residue was dried under vacuum to provide the title compound.

reactant | tert-butyl(trans-4-(cyanomethyl)cyclohexyl)methylcarbamate | 500 mg | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)CC#N)=O | C14H24N2O2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(trans-4-(aminomethyl)cyclohexyl)acetonitrile | NC[C@@H]1CC[C@H](CC1)CC#N | C9H16N2
